US07994185B2
Step A: N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step A using N-{5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (1.34 g, 3.03 mmol), NBS (0.540 g, 3.03 mmol), cyclobutanecarbothioamide (0.349 g, 3.03 mmol) the title compound of Step A was obtained (0.5 g, 0.931 mmol, 30.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.74 (s, 1H), 8.52 (d, J=5.3 Hz, 1H), 7.58-7.33 (m, 6H), 7.28 (t, J=7.9 Hz, 1H), 6.83 (d, J=5.3 Hz, 1H), 3.89 (quin, J=8.6 Hz, 1H), 2.43-2.19 (m, 4H), 2.08-1.92 (m, 1H), 1.92-1.78 (m, 1H). MS (ESI): 537 [M+H]+.

reactant | N-{5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 3.03 mmol, 1.34 g | ClC1=NC=CC(=N1)CC(=O)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C18H11ClF3N3O3S
reactant | NBS | 3.03 mmol, 0.540 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | cyclobutanecarbothioamide | 3.03 mmol, 0.349 g | C1(CCC1)C(N)=S | C5H9NS
product | N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 30.7% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H16ClF3N4O2S2
